### PR TITLE
[Merged by Bors] - chore: use CompositionSeries.ext_fun to simplify the proof of toList_injective

### PR DESCRIPTION
**Pull request by dwrensha**
Eliminates two porting notes and reduces elaboration time of the def from 0.185 to 0.175 seconds.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by dwrensha** [comment]
I found this using [tryTacticAtEachStep](https://github.com/dwrensha/compfiles/blob/108526b900cffe7d9d06756467f1cfe80220316b/scripts/tryTacticAtEachStep.lean).

File: Mathlib/Order/JordanHolder.lean [hunk 1]
```diff
@@ -230,16 +230,7 @@ theorem toList_injective : Function.Injective (@CompositionSeries.toList X _ _)
...
-  cases s₂
-  -- Porting note: `dsimp at *` doesn't work. Why?
-  dsimp at h h₁ h₂
-  subst h₁
-  -- Porting note: `[heq_iff_eq, eq_self_iff_true, true_and_iff]`
-  --             → `[mk.injEq, heq_eq_eq, true_and]`
-  simp only [mk.injEq, heq_eq_eq, true_and]
-  simp only [Fin.cast_refl] at h₂
-  exact funext h₂
+  exact ext_fun h₁ h₂
```
Comment (Ruben-VandeVelde) [inline Mathlib/Order/JordanHolder.lean:233]: I would suggest instead starting the proof with `apply ext_fun` or `refine ext_fun ?_ ?_`, and solve the two subgoals directly, rather than using `have`. Either way is fine, though.

Comment (dwrensha) [reply Mathlib/Order/JordanHolder.lean]: Done, to the extent possible, in c27ed5686194986cdb15b4529225cc6fa54c7f23.
`h1` still needs to be named, because the proof of `h2` refers to it.

**Comment by ocfnash** [comment]
Thanks!

bors merge
